US09227976B2
4-chloro-3,5-diphenyl-1-(3,3,3-trifluoropropyl)pyrazolo[3,4-c]pyridazine (Compound IId)
Compound IId was synthesized from 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine and 3,3,3-trifluoropropan-1-ol following the general procedure for the Mitsunobu reaction as described above.

reactant | 4-chloro-3,5-diphenyl-1H-pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)NN=C2C2=CC=CC=C2 | C17H11ClN4
reactant | 3,3,3-trifluoropropan-1-ol | FC(CCO)(F)F | C3H5F3O
product | 4-chloro-3,5-diphenyl-1-(3,3,3-trifluoropropyl)pyrazolo[3,4-c]pyridazine | ClC1=C2C(=NN=C1C1=CC=CC=C1)N(N=C2C2=CC=CC=C2)CCC(F)(F)F | C20H14ClF3N4
